US07452911B2
3.38a 5-bromo-3-methyl-1-(2-pyrrolidin-1-yl-ethyl)-1,3-dihydro-benzimidazol-2-one
73 mg (0.65 mmol) potassium-tert-butoxide are added to a solution of 200 mg (0.65 mmol) 5-bromo-1-(2-pyrrolidin-1-yl-ethyl)-1,3-dihydro-benzimidazol-2-one in 4 mL DMSO at RT. The reaction solution is stirred for 30 min and then 40 μL (0.65 mmol) iodomethane are added and stirred for a further 30 min. The mixture is combined with semisaturated NaHCO3 solution and the aqueous phase is extracted twice with 30 mL EtOAc. The organic phase is dried over MgSO4 and the solvent is eliminated i.vac.

reactant | potassium-tert-butoxide | 0.65 mmol, 73 mg | CC(C)([O-])C.[K+]
reactant | 5-bromo-1-(2-pyrrolidin-1-yl-ethyl)-1,3-dihydro-benzimidazol-2-one | 0.65 mmol, 200 mg | BrC1=CC2=C(N(C(N2)=O)CCN2CCCC2)C=C1 | C13H16BrN3O
reactant | iodomethane | 0.65 mmol, 40 μL | IC | CH3I
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMSO | 4 mL | CS(=O)C | C2H6OS
product | 5-bromo-3-methyl-1-(2-pyrrolidin-1-yl-ethyl)-1,3-dihydro-benzimidazol-2-one | BrC1=CC2=C(N(C(N2C)=O)CCN2CCCC2)C=C1 | C14H18BrN3O
